US07838524B2
Preparation of 4-(5-amino-3-tert-butyl-pyrazol-1-yl)phenol
To a stirred solution of 5-tert-butyl-2-(4-methoxyphenyl)-2H-pyrazol-3-ylamine (5.3 g, 21.6 mmol) in anhydrous DCM (43.2 mL) was added aluminum trichloride (14.4 g, 108.0 mmol, 5.0 eq) proportion wise, and the reaction was stirred at reflux for 18 h. The cooled reaction was poured into ethyl acetate, and the organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated at reduced pressure. Crystallization from DCM/ether afforded the title compound (2.71 g, 54%) as a white solid. 1H-NMR (DMSO-d6) δ 9.47 (s, 1H), 7.21 (d, J=9.0 Hz, 2H), 6.75 (d, J=8.7 Hz, 2H), 5.25 (s, 1H), 4.91 (broad s, 2H), 1.13 (s, 9H); MS LC-MS [M+H]+=232, RT=1.13 min; TLC (35% EtOAc/hex), Rf=0.13.

reactant | 5-tert-butyl-2-(4-methoxyphenyl)-2H-pyrazol-3-ylamine | 21.6 mmol, 5.3 g | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)OC)N | C14H19N3O
reactant | aluminum trichloride | 108.0 mmol, 14.4 g, 5.0 eq | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 43.2 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-amino-3-tert-butyl-pyrazol-1-yl)phenol | 2.71 g, 54% | NC1=CC(=NN1C1=CC=C(C=C1)O)C(C)(C)C | C13H17N3O
